scheMAGIC Simulator document edf2ebfa4b66569c
* document-hash edf2ebfa4b66569c
V1 vin 0 SIN(0 1 1k) AC 1 $ component:c1
R2 vin oc_ac_c2 10 $ component:c2
VOCSc2 oc_ac_c2 n1 0 $ component:c2
L_XFMR_c3_P n1 0 10m $ component:c3
L_XFMR_c3_S vout 0 2.5m $ component:c3
K_XFMR_c3 L_XFMR_c3_P L_XFMR_c3_S 0.99 $ component:c3
R4 vout oc_ac_c4 100 $ component:c4
VOCSc4 oc_ac_c4 0 0 $ component:c4
.save all v1#branch vocsc2#branch vocsc4#branch
.ac dec 30 10 100000
.end
